US05185368
A mixture of 500.0 g of desferrioxamine B-methanesulfonate in 2,500 ml of distilled water changes into a clear solution after having been stirred for 10 minutes; this is cooled to 10° and 80 g of sodium carbonate in 500 ml of water are added thereto within a period of 5 minutes. Inoculation with free desferrioxamine B yields a viscous milky suspension which is filtered. The residue is washed with 500 ml of water and with 500 ml of a 1:1 mixture of water and acetone, then with portions, totalling 2,000 ml, of acetone, and dried for 16 hours at 40° under a pressure of approximately 20 mm/Hg and for a further 16 hours at 40° C. under a high vacuum.

reactant | desferrioxamine B methanesulfonate | 500.0 g | CC(=O)N(CCCCCNC(=O)CCC(=O)N(CCCCCNC(=O)CCC(=O)N(CCCCCN)O)O)O.CS(=O)(=O)[O-]
reactant | sodium carbonate | 80 g | C([O-])([O-])=O.[Na+].[Na+]
solvent | water | 2,500 ml | O | H2O
solvent | water | 500 ml | O | H2O
product | desferrioxamine B | CC(=O)N(CCCCCNC(=O)CCC(=O)N(CCCCCNC(=O)CCC(=O)N(CCCCCN)O)O)O | C25H48N6O8
